US07947738B2
(41-a) Tert-butyl[(2-ethylbut-3-en-1-yl)oxy]dimethylsilane
(Methyl)triphenylphosphonium bromide (59.1 g, 165 mmol) was suspended in tetrahydrofuran (330 mL). To the suspension, n-butyllithium (1.57 M hexane solution, 97.3 mL, 153 mmol) was gradually added with stirring at 0° C. The mixture was stirred at this temperature for 1 hour, and a tetrahydrofuran solution (110 mL) of 2-({[tert-butyl(dimethyl)silyl]oxy}methyl)butanal (Tetrahedron 2004, 60, 9307) (27.6 g, 127 mmol) was then gradually added thereto. The mixture was stirred at 0° C. for 2 hours, and the reaction was then terminated by the addition of a saturated aqueous solution of ammonium chloride and water, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of ammonium chloride, water, and saturated saline and then dried over anhydrous sodium sulfate. The residue was filtered and concentrated under reduced pressure. Then, the obtained crude product was purified by silica gel column chromatography to obtain the compound of interest as an oil substance (19.9 g, 73%).

reactant | n-butyllithium | 153 mmol, 1.57 M, 97.3 mL | C(CCC)[Li]
reactant | 2-({[tert-butyl(dimethyl)silyl]oxy}methyl)butanal | 127 mmol, 27.6 g | [Si](C)(C)(C(C)(C)C)OCC(C=O)CC | C11H24O2Si
catalyst | (Methyl)triphenylphosphonium bromide | 165 mmol, 59.1 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 330 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
product | Tert-butyl[(2-ethylbut-3-en-1-yl)oxy]dimethylsilane | C(C)(C)(C)[Si](C)(C)OCC(C=C)CC | C12H26OSi
